US05866560
A solution of 63.2 g of 3-acetoxy-7α-(5-acetoxypentyl)-17,17-ethylenedioxy-estra-1,3,5(10)-triene in 630 ml of tetrahydrofuran is mixed in portions at 0° C. with 61.7 g of pyridine hydrobromide perbromide, and it is stirred for 2 hours at 0° C. Then, a solution of 15 g of sodium sulfide in 70 ml of water is added, diluted with ethyl acetate, washed with sodium bicarbonate and common salt solution and dried on sodium sulfate and concentrated by evaporation in a vacuum. 74.1 g of 3-acetoxy-7α-(5-acetoxypentyl)-16α-bromo-17,17-ethylenedioxy-estra-1,3,5(10)-triene is obtained as oil.

reactant | 3-acetoxy-7α-(5-acetoxypentyl)-17,17-ethylenedioxy-estra-1,3,5(10)-triene | 63.2 g | C(C)(=O)OC1=CC=2C[C@H]([C@H]3[C@@H]4CCC5([C@@]4(C)CC[C@@H]3C2C=C1)OCCO5)CCCCCOC(C)=O | C29H40O6
reactant | pyridine hydrobromide perbromide | 61.7 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | sodium sulfide | 15 g | [S-2].[Na+].[Na+]
solvent | tetrahydrofuran | 630 ml | O1CCCC1 | C4H8O
solvent | water | 70 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-acetoxy-7α-(5-acetoxypentyl)-16α-bromo-17,17-ethylenedioxy-estra-1,3,5(10)-triene | 74.1 g | C(C)(=O)OC1=CC=2C[C@H]([C@H]3[C@@H]4C[C@H](C5([C@@]4(C)CC[C@@H]3C2C=C1)OCCO5)Br)CCCCCOC(C)=O | C29H39BrO6
